US04477454
10 ml of 30% strength H2O2 are added to a boiling solution of 2.84 g of 2-(4-ethylthio-2-methoxyphenyl)-1,3,5,6-tetraazaindene in 50 ml of ethanol, and the mixture is then boiled for 3 hours. Cooling down and customary working up gives 2-(4-ethylsulfinyl-2-methoxyphenyl)-1,3,5,6-tetraazaindene.

reactant | H2O2 | OO | H2O2
reactant | 2-(4-ethylthio-2-methoxyphenyl)-1,3,5,6-tetraazaindene | 2.84 g | C(C)SC1=CC(=C(C=C1)C=1NC2=CN=NC=C2N1)OC | C14H14N4OS
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-ethylsulfinyl-2-methoxyphenyl)-1,3,5,6-tetraazaindene | C(C)S(=O)C1=CC(=C(C=C1)C=1NC2=CN=NC=C2N1)OC | C14H14N4O2S
